US04970281
In the same reaction vessel as used in Example 1, ethanol (230.4 g; 5.0 mol) and pyridine (39.6 g; 0.5 mol) were charged, and the reaction vessel was cooled at 0° C. in an ice bath. 2-Isopropenyloxazoline-4,5-dione hydrochloride (87.8 g; 0.5 mol) was added thereto in 30 minutes under stirring while keeping the reaction temperature at 0° to 10° C. After completion of the addition, excess ethanol was removed under reduced pressure. The reaction mixture was shaken with ethyl acetate (1,000 ml) and a large amount of water, and the ethyl acetate layer was separated and dried over anhydrous magnesium sulfate, followed by removal of ethyl acetate. Hydroquinone (0.01 g) was added thereto, and distillation under reduced pressure was carried out to give N-ethoxalylmethacrylamide (30.5 g). Yield, 33%.

reactant | pyridine | 0.5 mol, 39.6 g | N1=CC=CC=C1 | C5H5N
reactant | 2-Isopropenyloxazoline-4,5-dione hydrochloride | 0.5 mol, 87.8 g | Cl.C(=C)(C)C=1OC(C(N1)=O)=O
reactant | ethanol | C(C)O | C2H6O
reactant | ethanol | 5.0 mol, 230.4 g | C(C)O | C2H6O
product | N-ethoxalylmethacrylamide | 30.5 g | C(=O)(C(=O)OCC)NC(C(=C)C)=O | C8H11NO4
